US07109225B2
a] 4-[2-(2-tert-Butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophene-7-carbaldehyde
0.800 g of the above prepared (example 1, step f]) 2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethanol (4.37 mmol) was dissolved in 25 ml of toluene and treated successively at 0° C. with 0.778 g of 4-hydroxy-benzo[b]thiophene-7-carbaldehyde (4.37 mmol), 1.145 g of triphenylphosphine (4.37 mmol), and 0.883 g (4.37 mmol) of DIAD. The cooling bath was then removed and stirring continued for 4 h. Pouring onto crashed ice, twofold extraction with EtOEt, washing with dil. NaOH and water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=6/4) and crystallization from EtOEt, produced finally 0.713 g of the title compound as off-white crystals of mp. 140–42° (dec.).

reactant | 2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethanol | 4.37 mmol | C(C)(C)(C)C=1OC(=C(N1)CCO)C | C10H17NO2
reactant | 4-hydroxy-benzo[b]thiophene-7-carbaldehyde | 4.37 mmol, 0.778 g | OC1=CC=C(C=2SC=CC21)C=O | C9H6O2S
reactant | triphenylphosphine | 4.37 mmol, 1.145 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4.37 mmol, 0.883 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(2-tert-Butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophene-7-carbaldehyde | 0.713 g | C(C)(C)(C)C=1OC(=C(N1)CCOC1=CC=C(C=2SC=CC21)C=O)C | C19H21NO3S
